US07842688B2
d) (R)-(1-Benzylpyrrolidin-3-yl)methylamine
An autoclave is initially charged with 6.20 ml of methylamine solution in ethanol and a solution of 2.000 g of (S)-1-benzylpyrrolidin-3-yl toluene-4-sulphonate in 2 ml of ethanol. The reaction solution is subsequently heated to 140° C. over 15 hours. The reaction solution is cooled to room temperature and concentrated to dryness, and the residue is taken up in 10 ml of water. The aqueous solution is extracted with dichloromethane (2×10 ml). The aqueous phase is then admixed with 1 g of potassium carbonate and the suspension is stirred at room temperature over 5 minutes. The solid is filtered off and the filtrate is extracted with dichloromethane (2×10 ml). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The residue is purified by means of flash chromatography (SiO2 60F). The title compound is obtained as a yellow oil. Rf=0.14 (200:20:1 dichloromethane-methanol-25% conc. ammonia).

reactant | methylamine | 6.20 ml | CN | CH5N
reactant | (S)-1-benzylpyrrolidin-3-yl toluene-4-sulphonate | 2.000 g | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H]1CN(CC1)CC1=CC=CC=C1)C | C18H21NO3S
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (R)-(1-Benzylpyrrolidin-3-yl)methylamine | C(C1=CC=CC=C1)N1C[C@H](CC1)CN | C12H18N2
